US09126931B2
9-Ethynyl-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile
9-(3-Hydroxy-3-methyl-but-1-ynyl)-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile (Compound E4-2-1, 21.3 mg, 0.05 mmol) and sodium hydride (3.2 mg, 1.5 eq.) were dissolved in THF, and the mixture was stirred overnight at 50° C. Water was added to the reaction solution and the residues obtained after concentration under reduced pressure were purified by HPLC to obtain the title compound (brown solid, 9.6 mg, 31%).

reactant | 9-(3-Hydroxy-3-methyl-but-1-ynyl)-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 0.05 mmol, 21.3 mg | OC(C#CC1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC)(C)C | C25H22N2O3
reactant | sodium hydride | 3.2 mg, 1.5 eq. | [H-].[Na+]
reactant | Water | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 9-Ethynyl-8-methoxy-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazole-3-carbonitrile | 9.6 mg, 31% | C(#C)C1=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C=C1OC | C22H16N2O2
